US05747517
Preparation of 5-[[3-[4-(t-butyl)phenylthio]phenyl]methylene]-2-thioxo-4-thiazolidinone
The 4-[4-(t-butyl)phenylthio]benzaldehyde (1.5 g, 5.5 mmol) was condensed with rhodanine (0.865 g, 6.5 mmol) using sodium acetate (1.64 g, 20 mmol) and acetic acid (80 ml) essentially as previously described to yield 1.4 grams (66.7%) of the title compound. mp 188.5°-189.5° C. NMR. FDMS (M+) 385.

reactant | 4-[4-(t-butyl)phenylthio]benzaldehyde | 5.5 mmol, 1.5 g | C(C)(C)(C)C1=CC=C(C=C1)SC1=CC=C(C=O)C=C1 | C17H18OS
reactant | rhodanine | 6.5 mmol, 0.865 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 20 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 5-[[3-[4-(t-butyl)phenylthio]phenyl]methylene]-2-thioxo-4-thiazolidinone | 1.4 grams, 66.7% | C(C)(C)(C)C1=CC=C(C=C1)SC=1C=C(C=CC1)C=C1C(NC(S1)=S)=O | C20H19NOS3
